US08372823B2
Methyl 6-(2-(1-hydroxy-3-(4-(phenoxymethyl)phenyl)propyl)oxazol-5-yl)pyridine-3-carboxylate (77 mg, 0.17 mmol) was dissolved in anhydrous CH2Cl2 (6 mL) and Dess-Martin periodinane (110 mg, 0.260 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 2.5 h. The addition of saturated aqueous NaHCO3 quenched the reaction and the organic layer was washed with saturated aqueous Na2S2O3 and saturated aqueous NaCl. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 0-15% EtOAc/benzene) to provide methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylate as a white solid (60 mg, 78%): 1H NMR (CDCl3, 600 MHz) δ 9.22 (dd, 1H, J=2.0, 0.7 Hz), 8.39 (dd, 1H, J=8.2, 2.1 Hz), 7.96 (s, 1H), 7.90 (d, 1H, J=8.2 Hz), 7.36 (d, 2H, J=8.0 Hz), 7.29-7.25 (m, 4H), 6.96-6.93 (m, 3H), 5.01 (s, 2H), 3.97 (s, 3H), 3.46 (t, 2H, J=7.6 Hz), 3.11 (t, 2H, J=7.6 Hz); 187.2, 165.0, 158.7, 157.6, 152.5, 151.2, 149.3, 140.0, 138.3, 135.1, 129.4, 128.7, 128.7, 127.8, 125.8, 120.8, 119.6, 114.8, 69.6, 52.6, 40.6, 29.3; HR ESI-TOF m/z 443.1600 (M+H+, C26H22N2O5, requires 443.1601).

reactant | Methyl 6-(2-(1-hydroxy-3-(4-(phenoxymethyl)phenyl)propyl)oxazol-5-yl)pyridine-3-carboxylate | 0.17 mmol, 77 mg | OC(CCC1=CC=C(C=C1)COC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C=N1)C(=O)OC | C26H24N2O5
reactant | Dess-Martin periodinane | 0.260 mmol, 110 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylate | 60 mg, 78% | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=C(C=N1)C(=O)OC | C26H22N2O5
